US05840732
ii) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.79 g (4.98 mmol) of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yloxy)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.5 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 2.16 g (100%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yloxy)butyl]thiazolidine-2,4-dione | 4.98 mmol, 1.79 g | C(CCC)=C1C(N(C(S1)=O)CCCCOC1=CC=CC=2N1C=CN2)=O | C18H21N3O3S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCOC1=CC=CC=2N1C=CN2)=O | InChI=1S/C18H21N3O3S.ClH/c1-2-3-7-14-17(22)21(18(23)25-14)11-4-5-13-24-16-9-6-8-15-19-10-12-20(15)16;/h6-10,12H,2-5,11,13H2,1H3;1H
